US20010053779A1
A mixture comprising benzyl 2-ethoxycarbonylmethyl-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylate (1.7 g, 4.8 mmol), N-(3,4-diaminophenyl)guanidine hydrochloride (0.8 g, 4.0 mmol) and dimethylformamide (2 mL) heated in an oil bath at 185° C. and stirred under a nitrogen atmosphere for 2.5 hours. The mixture was cooled to room temperature and poured into stirring acetonitrile ( 150 mL) to give a precipitate. The precipitate was washed with additional acetonitrile and diethyl ether (150 mL), collected by filtration and dried in vacuo to give an off white solid. The solid was purified by preparative reverse phase HPLC to provide benzyl 2-[1-(5-guanidino-1H-benzoimidazol-2-yl)ethyl]-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylate as a white solid (1.0 g, 55% yield); LRMS(ESI): Calculated for C24H26N8O2: 458.5; Found (MH+): 459.2.

reactant | benzyl 2-ethoxycarbonylmethyl-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylate | 4.8 mmol, 1.7 g | C(C)OC(=O)CC=1NC2=C(CN(CC2)C(=O)OCC2=CC=CC=C2)N1 | C18H21N3O4
reactant | N-(3,4-diaminophenyl)guanidine hydrochloride | 4.0 mmol, 0.8 g | Cl.NC=1C=C(C=CC1N)NC(=N)N
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | benzyl 2-[1-(5-guanidino-1H-benzoimidazol-2-yl)ethyl]-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylate | 1.0 g, 55% yield | N(C(=N)N)C1=CC2=C(NC(=N2)C(C)C=2NC3=C(CN(CC3)C(=O)OCC3=CC=CC=C3)N2)C=C1 | C24H26N8O2
